US04354973
8-Chloro-2-methyl-4-methoxy-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine
In one portion 1.0 g (2.8 mmol) of 8-chloro-6-(2-chlorophenyl)-4-methoxy-2H,4H-pyrrolo[3,4-d][2]benzazepine was added to a solution of 0.35 g (3.0 mmol) of potassium t-butoxide in 20 ml of dimethylformamide which was cooled to 0°. After stirring for 15 min, 0.3 ml (4.8 mmol) of methyl iodide was added. The mixture was stirred for 5 min, diluted with water and extracted with ether. The ether solution was washed with water, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give a pale yellow oil. Purification by column chromatography (silica gel, 25 g; 5% ether in methylene chloride, eluent) gave an off-white solid, mp 128°-130°. Recrystallization from a mixture of ether and petroleum ether gave off-white prisms, mp 128°-130°.

reactant | 8-chloro-6-(2-chlorophenyl)-4-methoxy-2H,4H-pyrrolo[3,4-d][2]benzazepine | 2.8 mmol, 1.0 g | ClC1=CC2=C(C=3C(C(N=C2C2=C(C=CC=C2)Cl)OC)=CNC3)C=C1 | C19H14Cl2N2O
reactant | potassium t-butoxide | 3.0 mmol, 0.35 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 4.8 mmol, 0.3 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-2-methyl-4-methoxy-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(C(N=C2C2=C(C=CC=C2)Cl)OC)=CN(C3)C)C=C1 | C20H16Cl2N2O
